US05750520
N-[2-(2-Propyl)-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl]-3-cyano-(S)-phenylalanine ethyl ester
A stirred mixture of N-(1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-cyano-(S)-phenylalanine ethyl ester (Preparation 23; 1.3 g, 3.14 mmol), 2-iodopropane (641 mg, 377 μl, 3.77 mmol), potassium carbonate (650 mg, 4.7 mmol) and acetonitrile (50 ml) was heated under reflux for 9 hours, more 2-iodopropane (35 μl) added and heating under reflux continued for 1 hour. The solvent was evaporated under reduced pressure and the residue purified by chromatography on silica gel, using a 0-5% methanol in dichloromethane elution gradient, followed by trituration with diisopropyl ether, to afford the title compound (1.07 g) as a white solid, m.p. 110° C. Rf 0.49 (SS 6). Found: C,63.19; H,6.34; N,8.89. C24H29N3 O4S requires C,63.27; H,6.41; N,9.22%.

reactant | N-(1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-cyano-(S)-phenylalanine ethyl ester | 3.14 mmol, 1.3 g | C(C)OC([C@@H](NS(=O)(=O)C1=CC=C2CCNCC2=C1)CC1=CC(=CC=C1)C#N)=O | C21H23N3O4S
reactant | 2-iodopropane | 3.77 mmol, 377 μl, 641 mg | IC(C)C | C3H7I
reactant | potassium carbonate | 4.7 mmol, 650 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 35 μl | IC(C)C | C3H7I
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N-[2-(2-Propyl)-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl]-3-cyano-(S)-phenylalanine ethyl ester | 1.07 g | C(C)OC([C@@H](NS(=O)(=O)C1=CC=C2CCN(CC2=C1)C(C)C)CC1=CC(=CC=C1)C#N)=O | C24H29N3O4S
